US08431563B2
A 5-mL microwave reaction vial charged with N-(((2R)-4-((6-chloro-3-pyridinyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-(1-methylethyl)methanesulfonamide (0.161 g, 0.246 mmol), concentrated ammonium hydroxide (0.65 mL, 5.0 mmol) and EtOH (2 mL). The vial was heated in an Initiator microwave reactor (Biotage AB, Inc., Uppsala, Sweden) at 140° C. for 2.5 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The crude product was purified by column chromatography (25 g of silica gel, 30 to 100% EtOAc in hexanes) to afford N-(((2R)-4-((6-amino-3-pyridinyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-(1-methylethyl)methanesulfonamide (0.0873 g) as a white solid.

reactant | N-(((2R)-4-((6-chloro-3-pyridinyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-(1-methylethyl)methanesulfonamide | 0.246 mmol, 0.161 g | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)CN(S(=O)(=O)C)C(C)C | C21H25ClF6N6O5S2
reactant | ammonium hydroxide | 5.0 mmol, 0.65 mL | [OH-].[NH4+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | N-(((2R)-4-((6-amino-3-pyridinyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-(1-methylethyl)methanesulfonamide | 0.0873 g | NC1=CC=C(C=N1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)CN(S(=O)(=O)C)C(C)C | C21H27F6N7O5S2
